US08877742B2
6-bromo-3-chloro-1-methyl-1H-indole
A solution of 6-bromo-3-chloro-1H-indole (D72) (894 mg, 3.88 mmol) in DMF (16 mL) was cooled to 0° C. under an atmosphere of nitrogen. Sodium hydride (60% in mineral oil) (163 mg, 4.07 mmol) was added portionwise followed by methyl iodide (0.243 mL, 3.88 mmol). The mixture was stirred for 1.5 hour, slowly allowing to warm to RT. The mixture was quenched with saturated aq. NH4Cl and extracted with ethyl acetate (2×150 mL). The organic extracts were combined, dried with anhydrous sodium sulfate, filtered and evaporated to dryness. The residues were purified on silica, eluting with cyclohexane and ethyl acetate (0-50%). The appropriate fractions were combined and evaporated to dryness to give title compound (831 mg). LCMS (A): m/z (M−H)− 242/244, C9H7BrClN requires 243/245 (acidic).

reactant | 6-bromo-3-chloro-1H-indole | 3.88 mmol, 894 mg | BrC1=CC=C2C(=CNC2=C1)Cl | C8H5BrClN
reactant | Sodium hydride | 4.07 mmol, 163 mg | [H-].[Na+]
reactant | methyl iodide | 3.88 mmol, 0.243 mL | CI | CH3I
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 6-bromo-3-chloro-1-methyl-1H-indole | 831 mg | BrC1=CC=C2C(=CN(C2=C1)C)Cl | C9H7BrClN
